US07612212B2
To a solution of (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-ethoxy)-phenyl]-acetic acid (1.0 g, 3.21 mmol) in methanol (10 mL) was added a catalytic amount of concentrated sulfuric acid. The reaction mixture was stirred at reflux for 3 hours. The solvent was evaporated and the crude (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-ethoxy)-phenyl]-acetic acid methyl ester (0.836 g, 80% yield) was carried on to the next step without further purification.

reactant | (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-ethoxy)-phenyl]-acetic acid | 3.21 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OCCO | C15H21NO6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 mL | CO | CH4O
product | (R)-tert-butoxycarbonylamino-[4-(2-hydroxy-ethoxy)-phenyl]-acetic acid methyl ester | 0.836 g, 80% yield | COC([C@@H](C1=CC=C(C=C1)OCCO)NC(=O)OC(C)(C)C)=O | C16H23NO6
